US09447106B2
Step 2: Ethyl 1-benzyl-4-hydrazinylpiperidine-4-carboxylate hydrochloride
A mixture of di-tert-butyl 1-(1-benzyl-4-(ethoxycarbonyl)piperidin-4-yl)hydrazine-1,2-dicarboxylate (1.0 g, 2.09 mmol) and con. HCl (1.0 mL) in MeOH (10 mL) was heated to reflux for 2 hr. The mixture was then concentrated to give the crude product (650 mg, 88.9%) as a yellow solid. MS (ESI, m/e) [M+1]+ 278.0.

reactant | di-tert-butyl 1-(1-benzyl-4-(ethoxycarbonyl)piperidin-4-yl)hydrazine-1,2-dicarboxylate | 2.09 mmol, 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H39N3O6
reactant | HCl | 1.0 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | Ethyl 1-benzyl-4-hydrazinylpiperidine-4-carboxylate hydrochloride | 650 mg, 88.9% | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)NN | InChI=1S/C15H23N3O2.ClH/c1-2-20-14(19)15(17-16)8-10-18(11-9-15)12-13-6-4-3-5-7-13;/h3-7,17H,2,8-12,16H2,1H3;1H
